* C:\sandbox\spicelib\examples\testfiles\top_circuit.asc
V1 N001 0 PULSE(0 1 1n 1n 1n 1u 1u 1)
R1 N002 N001 11
XX1 N002 N003 sub_circuit_XX1
R2 N003 0 1k

* block symbol definitions
.subckt sub_circuit IN OUT
C1 OUT 0 1n
X2 IN 0 snubber
L1 IN OUT 1µ
.ends sub_circuit

.subckt snubber A B
C2 A B 1nF
R1 A C 100
C3 C B 100n
.ends snubber

.tran 2u
.PARAM V1=PULSE(0 1 1n 1n 1n {0.5/freq} {1/freq} 10)  ; Batch instruction
.PARAM freq=1Meg  ; Batch instruction
.PARAM test_exiting_param_set1=24  ; Batch instruction
.PARAM test_exiting_param_set2=25  ; Batch instruction
.PARAM test_exiting_param_set3=26  ; Batch instruction
.PARAM test_exiting_param_set4=27  ; Batch instruction
.PARAM test_add_parameter=34.45  ; Batch instruction
.backanno
***** SpiceEditor Manipulated this sub-circuit ****
.subckt sub_circuit_XX1 IN OUT
C1 OUT 0 22n Rser=1
X2 IN 0 snubber_X2
L1 IN OUT 4uH
***** SpiceEditor Manipulated this sub-circuit ****
.subckt snubber_X2 A B
C2 A B 1nF
R1 A C 50
C3 C B 100n
.ENDS snubber_X2
***** ENDS SpiceEditor ****
.ENDS sub_circuit_XX1
***** ENDS SpiceEditor ****
.end
